US05571775
11. Preparation of 4-Methylglutaconic Anhydride
The procedure found in J. Am. Chem. Soc. 75, 2377-9 (1953) was generally followed. Ethyl isodehydroacetate (100 g, 0.51 mol) was added to a warm solution of sodium hydroxide (68.5 g., 0.71 mol) in water (500 mL) and stirred for an hour until the mixture became clear. The solution was acidified with concentrated hydrochloric acid (200 mL) and was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was mixed with acetic anhydride (250 mL) and the resulting mixture was heated at reflux for 20-30 min. The solvent was removed by evaporation under reduced pressure and the residue obtained was crystallized from ether to obtain 60.8 g (94 percent of theory) of the title compound as a tan powder melting at 70°-72° C.

reactant | Ethyl isodehydroacetate | 0.51 mol, 100 g | CCOC(=O)C1=C(OC(=O)C=C1C)C | C10H12O4
reactant | sodium hydroxide | 0.71 mol, 68.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | water | 500 mL | O | H2O
product | 4-Methylglutaconic Anhydride | CC1C=CC(=O)OC1=O | C6H6O3
